US05105020
A mixture of 2-bromomethylnaphthalene, 3-iodophenol, potassium carbonate and dimethylformamide was stirred at ambient temperature to provide 3-(naphth-2-ylmethoxy)phenyl iodide.

reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | 3-iodophenol | IC=1C=C(C=CC1)O | C6H5IO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(naphth-2-ylmethoxy)phenyl iodide | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)I | C17H13IO
